US06858651B2
A solution of 80 mg (0.23 mmol) of trans-(1E)-[4-(3-Chloro-propenyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester in 4.3 ml of methanol was treated with 0.24 ml (2.34 mmol) N-methylpropylamine and stirred over night at RT. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 95:5) gave 46 mg (52%) of trans-(1E)-Methyl-{4-[3-(methyl-propyl-amino)-propenyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester, MS: 379 (MH+, 1Cl).

reactant | trans-(1E)-[4-(3-Chloro-propenyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | 0.23 mmol, 80 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)\C=C\CCl)=O | C17H21Cl2NO2
reactant | N-methylpropylamine | 2.34 mmol, 0.24 ml | CNCCC | C4H11N
solvent | methanol | 4.3 ml | CO | CH4O
product | trans-(1E)-Methyl-{4-[3-(methyl-propyl-amino)-propenyl]-cyclohexyl}-carbamic acid 4-chloro-phenyl ester | 46 mg, 52% | ClC1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)\C=C\CN(CCC)C)C)=O | C21H31ClN2O2
